US06482829B2
8-(3,5-Bis-trifluoromethyl-benzoyl)-3-[2-(4-methyl-piperazin-1-yl)-ethyl]-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one
The title compound, MS: m/e=598.1 (M+H+), was prepared in accordance with the general method of example 48 from 8-(3,5-bis-trifluoromethyl-benzoyl)-3-(2-hydroxy-ethyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one and 1-methylpiperazine.

reactant | 8-(3,5-bis-trifluoromethyl-benzoyl)-3-(2-hydroxy-ethyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | FC(C=1C=C(C(=O)N2CCC3(C(N(CN3C3=CC=CC=C3)CCO)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C24H23F6N3O3
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 8-(3,5-Bis-trifluoromethyl-benzoyl)-3-[2-(4-methyl-piperazin-1-yl)-ethyl]-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | FC(C=1C=C(C(=O)N2CCC3(C(N(CN3C3=CC=CC=C3)CCN3CCN(CC3)C)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C29H33F6N5O2
